US09446130B2
POCl3 (1.7 g, 11.09 mmol) was added dropwise to a solution of N-((3-chloropyrazin-2-yl)methyl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-carboxamide (800 mg, 2.218 mmol) in CH3CN (4.4 mL) at 0° C., then DMF (0.11 mL) was added dropwise for 5 minutes at 0° C. The reaction was heated at 70° C. for overnight The reaction was poured into ice-water, then neutralized with aq. Na2CO3 to adjust to pH=8. The resulting mixture was extracted with DCM and the combined organic layer was washed with water, brine and dried over anhydrous Na2SO4. The organic layer was concentrated in vacuo and the residue was purified by silica gel column chromatography (DCM/THF=100/20) to afford 7-(8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine (0.34 g, yield 44%).

reactant | POCl3 | 11.09 mmol, 1.7 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N-((3-chloropyrazin-2-yl)methyl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine-7-carboxamide | 2.218 mmol, 800 mg | ClC=1C(=NC=CN1)CNC(=O)C1CC=2N(CC1)C(=NN2)C(F)(F)F | C13H12ClF3N6O
reactant | DMF | 0.11 mL | CN(C)C=O | C3H7NO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 4.4 mL | CC#N | C2H3N
product | 7-(8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine | 0.34 g, yield 44% | ClC=1C=2N(C=CN1)C(=NC2)C2CC=1N(CC2)C(=NN1)C(F)(F)F | C13H10ClF3N6
